US06998415B2
Step 3. Preparation of 1-(4-aminosulfonylphenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid
Methyl 1-(4-aminosulfonylphenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylate (1.0 g, 2.66 mmol) was added to tetrahydrofuran (20 mL). Aqueous sodium hydroxide (2.5 N, 2.7 mL) and water (2.5 mL) were added, and the suspension was heated to reflux and held for 16 hours. The solids all dissolved during this time. The reaction was cooled to room temperature, and hydrochloric acid solution (1 N, 11 mL) was added. The aqueous suspension was extracted with methylene chloride (2×20 mL). The combined organic solution was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to an oil. Trituration with 30 mL of dichloromethane yielded, upon filtration and drying, 0.90 g (94%) of 1-(4-aminosulfonylphenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid as a white solid: mp 126–128° C.

reactant | Methyl 1-(4-aminosulfonylphenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylate | 2.66 mmol, 1.0 g | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)Cl)C(=O)OC | C17H14ClN3O4S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2.5 N, 2.7 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 11 mL | Cl | ClH
solvent | water | 2.5 mL | O | H2O
product | 1-(4-aminosulfonylphenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)Cl)C(=O)O | C16H12ClN3O4S
